US07728018B2
2,2-Bis-(2,2,2-trifluoro-ethyl)-propane-1,3-diamine
340 mg LiAlH4 (8.95 mmol) was suspended in 15 ml dry Et2O and cooled in an ice bath. A solution of 760 mg 2,2-Bis-(2,2,2-trifluoro-ethyl)-malononitrile in Et2O was added dropwise at such a rate that the temperature was kept below 20° C. The mixture was stirred overnight at room temperature, cooled in an ice bath, and quenched by adding H2O (0.35 ml), 2M aqueous NaOH (0.70 ml), and again H2O (0.35 ml). The suspension was filtered, the filtercake was washed with Et2O, and the combined filtrates were evaporated to dryness under reduced pressure to give 0.72 g of an oil. This material was used in the subsequent step without further purification.

reactant | LiAlH4 | 8.95 mmol, 340 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 2,2-Bis-(2,2,2-trifluoro-ethyl)-malononitrile | 760 mg | FC(CC(C#N)(C#N)CC(F)(F)F)(F)F | C7H4F6N2
solvent | Et2O | 15 ml | CCOCC | C4H10O
product | 2,2-Bis-(2,2,2-trifluoro-ethyl)-propane-1,3-diamine | 0.72 g | FC(CC(CN)(CN)CC(F)(F)F)(F)F | C7H12F6N2
